US07285564B2
Step A—Preparation of N-(1-Benzylpiperdin-4-yl)-N-isopropyl 4-Chlorobutyramide
A solution of 4-chlorobutyryl chloride (5.3 m]L, 47.4 mmol) in dichloromethane (400 mL) was added dropwise to a mixture of 1-benzyl-4-(isopropylamino)piperidine (10 g, 43.07 mmol) and DIPEA (9.0 mL, 51.7 mmol) in dichloromethane (200 mL) at 0° C. The reaction mixture was stirred at 0° C. for 15 min and then at room temperature for 2 h. The solution was then washed with saturated sodium bicarbonate, brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography (ethyl acetate/hexane/triethylamine: 42.5/56.5/1) to give 5.0 g of the title intermediate as viscous oil (35% yield).

reactant | 4-chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 1-benzyl-4-(isopropylamino)piperidine | 43.07 mmol, 10 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C)C | C15H24N2
reactant | DIPEA | 51.7 mmol, 9.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | N-(1-Benzylpiperdin-4-yl)-N-isopropyl 4-Chlorobutyramide | 5.0 g, 35% yield | C(C1=CC=CC=C1)N1CCC(CC1)N(C(CCCCl)=O)C(C)C | C19H29ClN2O
